Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ragweed pollen / nuts
 
Attending: ___.
 
Chief Complaint:
Neutropenic Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH of Asthma, HLD, and recently diagnosed hairy cell
leukemia (s/p cladribine ___, presented from outside
hospital with neutropenic fever, admitted for antibiotics and
workup
 
Patient noted that during his chemotherapy course he felt a
slight subjective fever, but TMax was always less than 100.4,
until ___ when it increased to 101 for which he called ___
oncology, spoke to Dr ___ referred him to ___ ED
where Bcx were drawn, he was given Tylenol, but no Abx and then
was discharged by car to ___.

He noted that aside from a ___ dull, poorly localized headache,
which is minimal, without rigidity in neck or photo/phonophobia,
patient was relatively asymptomatic. Denied rhinorrhea, sore
throat, cough, mucus production, nausea, vomiting, diarrhea,
abdominal pain, dysuria, rash. He noted that he has slow flow
with urine at baseline, and feels he has had increased frequency
with IVF in ED. 

In the ED, initial vitals:  98.1 77 132/61 18 100RA. While in 
the
ED, TMax was 100.3. CBC revealed neutropenia (ANC 912), Anemia
(Hgb 8.0, baseline Hgb 8.9), thrombocytopenia (61, baseline 70).
CHEM/LFTs/Lactate were normal. CXR was without infiltrate. Blood
Cultures drawn before patient empirically given cefepime. UA/UCX
ordered but not sent prior to Abx. Patient was given IVF and
Tylenol for fever 
 
On arrival to the floor, pt noted that he was comfortable, in
good spirits.  
 
REVIEW OF SYSTEMS:  
A complete 10-point review of systems was performed and was
negative unless otherwise noted in the HPI. 

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
-Noted to be anemic ___ with a hemoglobin of 11.9. This 
was
repeated ___ and hemoglobin was 11.7. The remainder of his
CBC was normal. Most recent prior CBC was ___, with slight
thrombocytosis at that time. Anemia evaluation excluding SPEP 
was
done ___ and was normal. 
-___:  Second Bone marrow biopsy via ___ confirmedairy cell
leukemia. First biopsy was dry tap. Pripheral flow cytometry was
negative. SPEP negative, making Waldenstrom's unlikely. CT scan
C/A/P was negative for adenopathy or splenomegaly. 
-Pt completed ___ days of Cladribine ___ 

Past Medical History:
Fracture of nose 
Deviated septum 
Prostatic hypertrophy, benign 
Epicondylitis, medial humeral 
Right elbow pain 
Asthma 
Colon cancer screening 
Basal cell carcinoma of left cheek 
Hypercholesteremia 
Hairy cell leukemia not having achieved remission
 
Social History:
___
Family History:
Paternal Grandfather had unknown cancer, passed away in his ___
 
Physical Exam:
Admission:
Vitals:  98.3 148/76 65 18 96RA
GENERAL:  sitting in bed, partner at bedside, appears in no 
acute
distress
EYES: PERRLA
HEENT: OP clear (no ulcerations), MMM
LUNGS: CTA b/l, no wheezes/rales/rhonchi, speaking in full
sentences
CV:  RRR no m/r/g
ABD: soft, NT, ND, normoactive BS 
EXT:  warm, well perfused, no edema, no rash, normal muscle 
bulk,
no deformity
SKIN:  warm, dry, no rash
NEURO:  AOx3, fluent speech
ACCESS: PIV right forearm

Discharge:
VITAL SIGNS: Afebrile, systolic blood pressure 118-140, heart
rate 68-81, 18, ___ room air
GENERAL:  sitting in chair, smiling/pleasant, appears in no 
acute
distress, is dressed in regular clothes
EYES: PERRLA
HEENT: OP clear (no ulcerations), MMM
LUNGS: CTA b/l, no wheezes/rales/rhonchi, speaking in full
sentences, normal respiratory rate
CV:  RRR no m/r/g
ABD: soft, NT, ND, normoactive BS 
EXT:  warm, well perfused, no edema, no rash, normal muscle 
bulk,
no deformity
SKIN:  warm, dry, no rash
NEURO:  AOx3, fluent speech
ACCESS: PIV 
 
Pertinent Results:
DISCHARGE LABS:
___ 07:30AM BLOOD WBC-1.9* RBC-2.93* Hgb-8.5* Hct-27.0* 
MCV-92 MCH-29.0 MCHC-31.5* RDW-20.7* RDWSD-69.7* Plt Ct-57*
___ 07:30AM BLOOD Glucose-97 UreaN-23* Creat-1.0 Na-141 
K-3.6 Cl-102 HCO3-24 AnGap-15
___ 07:15AM BLOOD ALT-23 AST-20 AlkPhos-108 TotBili-0.7
___ 07:30AM BLOOD Calcium-8.7 Phos-3.2 Mg-2.1

Imaging:

STUDIES:  
CXR ___
No acute cardiopulmonary abnormalities. 

MICRO:
___ 8:00 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 8:00 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 8:00 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 7:15 am BLOOD CULTURE

 URINE CULTURE (Final ___:    NO GROWTH. 

   Blood Culture, Routine (Pending): 

ASPERGILLUS GALACTOMANNAN ANTIGEN Results Pending 
B-GLUCAN Results Pending 
HISTOPLASMA ANTIGEN Results Pending 

 
Brief Hospital Course:
___ PMH of Asthma, HLD, and recently diagnosed hairy cell
leukemia (s/p cladribine ___, presented from outside
hospital with neutropenic fever, admitted for antibiotics and
workup, for which etiology was never identified but resolved 
during stay, who was discharged with close outpatient oncology 
followup.

#Neutropenic Fever
CXR negative for PNA and no respiratory symptoms to warrant CT 
chest. No abdominal symptoms and normal stooling. No lesions on 
skin or mucus membranes. Headache minimal, without symptoms 
suggestive of meningitis, and resolved shortly after admission. 
Blood cultures negative to date. Urine culture negative but was 
drawn after antibiotic dosing began. Fungal markers pending at 
time of discharge. Patient was given neupogen and neutropenia 
improved. ANC at nadir was 912, at discharge was 1406. As per 
discussion with outpatient oncologist Dr ___ was 
discharged with close outpatient followup with plan to continue 
neupogen but no outpatient antibiotics.

#Anemia/Thrombocytopenia
Counts approximately equivalent to outpatient setting. 
Neutropenia improved as above. Patient is to have repeat CBC in 
1 week or less to re-assess counts.

Transitional Issues:
1. Patient is to have repeat CBC in 1 week or less to re-assess 
counts.
2. Patient is to continue neupogen as previously directed every 
other day.
3. Patient is to followup with his oncologist on ___ 
4. Would repeat CHEM  with next lab draw to ensure Cr remains 
stable. Had elevated BUN on day of discharge and received fluids 
prior to d/c.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Loratadine 10 mg PO DAILY 
2. Ondansetron 8 mg PO Q8H:PRN nausea 
3. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Sildenafil 20 mg PO 1X/WEEK (___) as needed for sex 
6. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 for allergic reaction 

7. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
8. Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation DAILY 
9. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
10. Filgrastim 480 mcg SC 3X/WEEK (___) 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB  
3.  Atorvastatin 40 mg PO QPM  
4.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 for allergic 
reaction  
5.  Filgrastim 480 mcg SC 3X/WEEK (___)  
6.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
7.  Loratadine 10 mg PO DAILY  
8.  Ondansetron 8 mg PO Q8H:PRN nausea  
9.  Sildenafil 20 mg PO 1X/WEEK (___) as needed for sex  
___.  Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Febrile Neutropenia
Hairy Cell Leukemia
Chronic Anemia/Thrombocytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you while you are hospitalized 
at ___.  As you know you were 
admitted for fever, for which no source was identified, but 
resolved soon after your admission.  As per discussion with your 
oncologist it is safe for you to follow-up in the outpatient 
setting without further antibiotics.  You should continue your 
neupogen shots every other day as was previously directed. Be 
sure to attend your next outpatient follow-up appointment with 
your oncologist where repeat labs will be drawn to assess your 
white blood cell count, anemia, low platelets, and kidney 
function.
 
Followup Instructions:
___